### ISSUE TITLE
cbv tactic throws an exceptions on projections of opaque constants passed to rewrite theorems

### ISSUE THREAD

**Issue by wkrozowski** [leanprover/lean4#12554]
### Description

The `cbv` tactic throws "unexpected kernel projection term during structural definitional equality" when a `@[cbv_eval]` theorem with a lambda in its LHS pattern is matched against an expression containing a `.proj` (kernel projection) at the corresponding position.

The root cause is that `isDefEqMain` in `Sym/Pattern.lean` does not handle `.proj` expressions - it throws an exception instead. The `Sym` pattern matching infrastructure assumes projections have been pre-processed into applications, but `cbv` preserves raw `.proj` expressions (they are handled by `handleProj` in the cbv pre step).

```lean
def applyFn (f : Nat → Nat) (x : Nat) : Nat := f x

@[cbv_eval] theorem applyFn_id : applyFn (fun x => x) = fun x => x := by
  funext x; rfl

opaque fnPair : (Nat → Nat) × Nat

/--
error: unexpected kernel projection term during structural definitional equality
  fun x => x
and
  fnPair.1
pre-process and fold them as projection applications
-/
#guard_msgs in
example : applyFn fnPair.1 42 = fnPair.1 42 := by cbv
```

**Expected behavior:** `cbv` should either succeed or leave the goal unsolved, not throw an internal error.

**Actual behavior:**

```
unexpected kernel projection term during structural definitional equality
  fun x => x
and
  fnPair.1
pre-process and fold them as projection applications
```

### Trigger path

`cbvPost` → `handleApp` → `tryCbvTheorems` → `Theorems.rewrite` → `thm.pattern.match?` → `processPendingExpr` → `isDefEqMain` → throws an exception on `.proj`

The pending pair `(fun x => x, fnPair.1)` is created because `fun x => x` in the pattern is a `.lam` which gets pushed to pending, and `fnPair.1` is the corresponding `.proj` expression. Then `isDefEqMain` encounters the `.proj` and throws.

### Versions

```
Lean 4.29.0-nightly-2026-02-17
```

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.
